US08404866B2
To a stirred solution of (3R,4R)—N-Boc-3-azido-4-acetoxypyrrolidine (1.0 g, 3.4 mmol) in THF-MeOH (3:1, 8 mL) at 0° C. was added 1N LiOH (4 mL) dropwise. The reaction mixture was stirred at room temperature overnight, then it was evaporated under reduced pressure. Ethyl acetate (20 mL) was added to the residue and the solution was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by flash column (50% ethyl acetate in hexane) to give (3R,4R)—N-Boc-3-azido-4-hydroxypyrrolidine: 1H NMR (300 MHz, CDCl3) identical to that of the (3S,4S) isomer; [α]20D=−26.8° (c=1.0, CHCl3).

reactant | (3R,4R)—N-Boc-3-azido-4-acetoxypyrrolidine | 3.4 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)OC(C)=O)N=[N+]=[N-] | C11H18N4O4
reactant | LiOH | 1N, 4 mL | [Li+].[OH-]
solvent | THF MeOH | 8 mL | C1CCOC1.CO
product | (3R,4R)—N-Boc-3-azido-4-hydroxypyrrolidine | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)O)N=[N+]=[N-] | C9H16N4O3
